US07153854B2
To a suspension of lithium aluminum hydride (98.8 mg) in tetrahydrofuran (10 mL) was added ethyl 5-[4-(3-chlorophenyl)-7-ethyl-2-phenylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate (600 mg) in tetrahydrofuran (10 mL) under ice-water cooling and the mixture was stirred at 0° C. for 2 hours. The reaction was quenched with saturated potassium sodium tartrate solution and the insolubles were filtereed off and washed with ethyl acetate. The filtrates were washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (10:1–2:1) to give 5-[4-(3-chlorophenyl)-7-ethyl-2-phenylpyrrolo[1,2-b]pyridazin-3-yl]-1-pentanol as an yellow oil (478 mg).

reactant | lithium aluminum hydride | 98.8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 5-[4-(3-chlorophenyl)-7-ethyl-2-phenylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 600 mg | ClC=1C=C(C=CC1)C=1C=2N(N=C(C1CCCCC(=O)OCC)C1=CC=CC=C1)C(=CC2)CC | C28H29ClN2O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-[4-(3-chlorophenyl)-7-ethyl-2-phenylpyrrolo[1,2-b]pyridazin-3-yl]-1-pentanol | 478 mg | ClC=1C=C(C=CC1)C=1C=2N(N=C(C1CCCCCO)C1=CC=CC=C1)C(=CC2)CC | C26H27ClN2O
